US08008340B2
[3-(2-Amino-phenylsulfanyl)-5-fluoro-1H-indol-2-yl]-piperidin-1-yl-methanone (Iac)
Treat 5-fluoro-1H-indole-2-carboxylic acid 3 (X═F, 1.7 g, 9.5 mmol) with piperidine as described in General Synthetic Procedure VIa to afford 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone 8 (X═F, R4=piperidin-1-yl; 2.3 g, 100%) as a white solid. 1H NMR (DMSO-d6) δ 11.7 (brs, 1H), 7.5-7.3 (m, 2H), 7.1-7.0 (m, 1H), 6.7 (s, 1H), 3.7 (m, 4H), 1.7-1.5 (m, 6H). Treat 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone (125 mg, 0.51 mmol) with 2-aminophenyldisulfide (347 mg, 1.4 equiv.) as described in General Synthetic Procedure VIIa to afford the title compound Iac (92 mg, 25%) as an ivory-colored solid, m/z=369 (M+1).

reactant | 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone | 0.51 mmol, 125 mg | FC=1C=C2C=C(NC2=CC1)C(=O)N1CCCCC1 | C14H15FN2O
reactant | 2-aminophenyldisulfide | 347 mg, 1.4 equiv. | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
product | [3-(2-Amino-phenylsulfanyl)-5-fluoro-1H-indol-2-yl]-piperidin-1-yl-methanone | NC1=C(C=CC=C1)SC1=C(NC2=CC=C(C=C12)F)C(=O)N1CCCCC1 | C20H20FN3OS
